US04703049
A suspension of 8.0 g of 6-ethyl-7-methoxy-5-methylimidazo [1,2-a]pyrimidine-2-carbonitrile, 2.82 g of hydroxylamine hydrochloride and 2.28 g of potassium hydroxide in 100 ml of ethanol was refluxed with stirring for 2 hours and the mixture was cooled. The precipitated product was filtered, suspended in water with stirring for 15 minutes, filtered, then washed with water and ether and dried under vacuum to give 7.96 g of 6-ethyl-N-hydroxy-7-methoxy-5-methylimidazo[1,2-a]pyrimidine-2-carboxamidine (86% yield) melting at 249°-250° C.

reactant | 6-ethyl-7-methoxy-5-methylimidazo [1,2-a]pyrimidine-2-carbonitrile | 8.0 g | C(C)C=1C(=NC=2N(C1C)C=C(N2)C#N)OC | C11H12N4O
reactant | hydroxylamine hydrochloride | 2.82 g | Cl.NO
reactant | potassium hydroxide | 2.28 g | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-ethyl-N-hydroxy-7-methoxy-5-methylimidazo[1,2-a]pyrimidine-2-carboxamidine | 7.96 g, 86% yield | C(C)C=1C(=NC=2N(C1C)C=C(N2)C(=N)NO)OC | C11H15N5O2
